US05521179
A mixture of 4-methylaminophenol sulfate (1.00 g) and potassium carbonate (0.88 g) in dry tetrahydrofuran (29 mL) was stirred for 45 minutes at room temperature before iodomethane (0.36 mL) was added. After the reaction was stirred for 18 h, TLC showed incomplete reaction. Dimethylformamide (5 mL) was added to make the reaction mixture homogeneous and stirring was continued. After a total of 42 h, the reaction was evaporated and the residue was suspended in ethyl acetate (75 mL). The suspension was washed (saturated sodium bicarbonate, brine), dried, evaporated and dried under vacuum to give the crude product as an oil. The oil was preadsorbed onto silica gel; and chromatography, eluting with hexane:ethyl acetate (2:1), gave 4-dimethylaminophenol as a white solid (0.26 g); TLC: Rf =0.35, hexane:ethyl acetate (2:1); MS: m/z=138(M+1).

reactant | 4-methylaminophenol sulfate | 1.00 g | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
reactant | potassium carbonate | 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.36 mL | IC | CH3I
reactant | Dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 29 mL | O1CCCC1 | C4H8O
product | 4-dimethylaminophenol | 0.26 g | CN(C1=CC=C(C=C1)O)C | C8H11NO
